US05534518
A rapidly stirred solution of 15.5 grams (0.074 mole) of 2-bromo-4-chlorophenol, 20.0 grams (0.145 mole) of anhydrous powdered potassium carbonate, and 10 mL (0.106 mole) of dimethyl sulfate in 150 mL of acetone was heated at reflux for about 18 hours. After this time, the reaction mixture was concentrated under reduced pressure to a residue. The residue was partitioned between 100 mL each of water and methylene chloride. The organic layer was removed and washed with an aqueous solution saturated with sodium chloride. The organic layer was then dried with magnesium sulfate and filtered. The filtrate was passed through a short column of silica gel. Elution was accomplished with 500 mL of methylene chloride. The eluate was concentrated under reduced pressure, yielding 16.3 grams of 3-bromo-4-methoxychlorobenzene. The NMR spectrum was consistent with the proposed structure.

reactant | 2-bromo-4-chlorophenol | 0.074 mole, 15.5 grams | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
reactant | potassium carbonate | 0.145 mole, 20.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 0.106 mole, 10 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 3-bromo-4-methoxychlorobenzene | 16.3 grams | BrC=1C=C(C=CC1OC)Cl | C7H6BrClO
